US06953790B2
To a −78° C. of 1-benzyl 5-methyl N,N-bis(tert-butoxycarbonyl)-D-glutamate (48.2 g, 106.8 mmol) in Et2O (400 mL), was added DIBAL (133.4 mL of 1.0 M solution in toluene, 133.4 mmol) slowly so as not to let the internal temperature exceed −65° C. After 15 min, 20 mL more of DIBAL was added. After stirring for additional 20 min, water (300 mL) was added and the reaction was warmed to room temperature and stirred for 30 min. This mixture was further diluted with Et2O and H2O, the layers separated and the aqueous phase extracted with more Et2O. The combined organics extracts were washed with a saturated aqueous solution of sodium potassium tartrate (2×), brine, dried over magnesium sulfate, filtered and concentrated to give benzyl N,N-bis(tert-butoxycarbonyl)-5-oxo-D-norvalinate (44.4 g) which was carried directly into the next step. MS 444.1 (M+Na). This material was dissolved in toluene (310 mL) and nitromethane (57.1 mL, 1.05 mol) and 1,1,3,3-tetramethylguanidine (1.3 mL, 10.5 mmol) were added at 0° C. After stirring for 30 min the nitroaldol reaction was complete, so methanesulfonyl chloride (12.2 mL, 158 mmol) was added followed triethylamine (22.0 mL, 158 mmol) at 0° C. and the reaction was allowed to warm to RT. After 1 h, 4 mL MsCl and 5.5 mL triethylamine were added. After stirring for an additional 30 min the mixture was diluted with Et2O and NaHCO3, the phases separated and the aqueous layer backwashed with another portion of Et2O. The combined organics were dried over magnesium sulfate, filtered and concentrated to give a residue that was purified by silica gel chromatography (5%→50% ethyl acetate/hexanes) to give the title compound (34.3 g, 70%). MS 487.1 (M+Na).

reactant | 1-benzyl 5-methyl N,N-bis(tert-butoxycarbonyl)-D-glutamate | 106.8 mmol, 48.2 g | C(C)(C)(C)OC(=O)N([C@H](CCC(=O)OC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H33NO8
reactant | DIBAL | 133.4 mmol, 1.0 M, 133.4 mL | CC(C)C[AlH]CC(C)C
solvent | Et2O | 400 mL | CCOCC | C4H10O
solvent | H2O | O | H2O
solvent | water | 300 mL | O | H2O
product | benzyl N,N-bis(tert-butoxycarbonyl)-5-oxo-D-norvalinate | 44.4 g | C(C)(C)(C)OC(=O)N([C@H](CCC=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C22H31NO7
